US08609656B2
1-{4-[5-(5-tert-Butyl-[1,2,4]oxadiazol-3-yl)indol-1-yl]phenyl}-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (Table 1, Compound No. 27)
The title compound can be synthesized from 1-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-N-hydroxy-1H-indole-5-carboxamidine and pivalic anhydride by using the same techniques as in Example 26.

reactant | 1-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-N-hydroxy-1H-indole-5-carboxamidine | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C(=N)NO)=O)C(F)(F)F | C23H17ClF3N5O2
reactant | pivalic anhydride | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | 1-{4-[5-(5-tert-Butyl-[1,2,4]oxadiazol-3-yl)indol-1-yl]phenyl}-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | C(C)(C)(C)C1=NC(=NO1)C=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C28H23ClF3N5O2
